US04337341
A solution of 159 ml. of n-butyllithium in 100 ml. of hexane containing 47.7 g. of 3-methoxybromobenzene was stirred at -25° C. for twenty minutes and then was warmed to room temperature and stirred for one hour to provide 3-methoxyphenyl lithium. The reaction mixture was chilled to 10° C. and stirred while a solution of 50 g. of 1-methyl-4-piperidone in 100 ml. of diethyl ether was added dropwise over thirty minutes. Following complete addition, the reaction mixture was stirred for two hours, and then was diluted with 50 ml. of saturated aqueous sodium chloride solution. The solution was extracted several times with diethyl ether, and the ethereal extracts were combined and concentrated to dryness to provide 38 g. of 1-methyl-4-hydroxy-4-(3-methoxyphenyl)piperidine.

reactant | n-butyllithium | C(CCC)[Li]
reactant | 3-methoxybromobenzene | COC=1C=C(C=CC1)Br | C7H7BrO
solvent | hexane | 47.7 g | CCCCCC | C6H14
product | 3-methoxyphenyl lithium | COC=1C=C(C=CC1)[Li] | InChI=1S/C7H7O.Li/c1-8-7-5-3-2-4-6-7;/h2-3,5-6H,1H3;
